US09085534B2
Preparation 5A: methyl 3-[(4-cyanobenzyl)amino]pyridine-4-carboxylate
The title compound was prepared in 4% yield from 4-(aminomethyl)-benzonitrile hydrochloride and methyl 3-bromoisonicotinate according to the procedure for Preparation 4A. 1H NMR (500 MHz, CDCl3): δ 8.07 (s, 1H), 7.97 (d, 2H, J=5.0 Hz), 7.63-7.70 (m, 3H), 7.46 (d, 2H, J=8.3 Hz), 4.61 (d, 2H, J=6.1 Hz), 3.94 (s, 3H). [M+H] calc'd for C15H13N3O2, 268; found 268.

reactant | 4-(aminomethyl)-benzonitrile hydrochloride | Cl.NCC1=CC=C(C#N)C=C1
reactant | methyl 3-bromoisonicotinate | BrC1=C(C(=O)OC)C=CN=C1 | C7H6BrNO2
product | methyl 3-[(4-cyanobenzyl)amino]pyridine-4-carboxylate | 4% yield | C(#N)C1=CC=C(CNC=2C=NC=CC2C(=O)OC)C=C1 | C15H13N3O2
